US04056521
1-Cyclopropylethyl 3-anilino-3-methyl-7-(2-phenoxyacetamido)-cepham-4-carboxylate (142mg) was dissolved in ice-cooled trifluoroacetic acid (1.5 ml) and the mixture was stirred for 1 hour under ice-cooling. After the reaction, the reaction mixture was concentrated under reduced pressure. The residue was dissolved by adding ethyl acetate and extracted with 5% sodium bicarbonate aqueous solution. The extract was adjusted to pH2 with 5% hydrochloric acid and back-extracted with ethyl acetate. The extract was washed with water, dried and the solvent was distilled off. The residue (amorphous) was dissolved in methanol and to this solution was added water little by little. Precifitates were collected by filtration and dried to give powder of 3-anilino-3-methyl-7-(2-phenoxy-acetamido)cepham-4-carboxylic acid (62 mg), mp 119 to 123° C (dec.).

reactant | 1-Cyclopropylethyl 3-anilino-3-methyl-7-(2-phenoxyacetamido)-cepham-4-carboxylate | 142mg | N(C1=CC=CC=C1)C1(CS[C@H]2N(C1C(=O)OC(C)C1CC1)C(C2NC(COC2=CC=CC=C2)=O)=O)C | C27H31N3O5S
reactant | trifluoroacetic acid | 1.5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 3-anilino-3-methyl-7-(2-phenoxy-acetamido)cepham-4-carboxylic acid | 62 mg | N(C1=CC=CC=C1)C1(CS[C@H]2N(C1C(=O)O)C(C2NC(COC2=CC=CC=C2)=O)=O)C | C22H23N3O5S
